US08802690B2
5-Nitropyridine-2-carboxylic acid (100 g, 0.60 mol) was heated at reflux in methanol (1 L) and sulfuric acid (57 mL) for 5 hours. The reaction mixture was coded, reduced to half volume in vacuo, and the residue neutralized with a solution of sodium carbonate. The resulting precipitate was filtered to give methyl 5-nitropyridine-2-carboxylate (yield 89%, 98 g).

reactant | 5-Nitropyridine-2-carboxylic acid | 0.60 mol, 100 g | [N+](=O)([O-])C=1C=CC(=NC1)C(=O)O | C6H4N2O4
reactant | sulfuric acid | 57 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 1 L | CO | CH4O
product | methyl 5-nitropyridine-2-carboxylate | 98 g, yield 89% | [N+](=O)([O-])C=1C=CC(=NC1)C(=O)OC | C7H6N2O4
